US09227976B2
Step 5: 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (Compound Iu)
Sodium nitrite (2.3 g, 33.8 mmol) was added portionwise to cHCl (33 mL) at −15° C. and stirred for 15 min. 3-methyl-4-(phenylethynyl)-1H-pyrazol-5-amine (3.3 g, 16.9 mmol) was added as a solid, followed by the addition of CH2Cl2 (5 mL). The reaction mixture was allowed to warm up and stirred at room temperature for 1 h. The reaction mixture was diluted with CH2Cl2 (28 mL) and NaCl (1.0 g) was added. The reaction mixture was heated to 50° C. for 16 h, then cooled to room temperature and partitioned between water and CH2Cl2. The organic layer was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, CH2Cl2, then CH2Cl2/ethyl acetate 9:1) yielding Compound Iu as a light yellow solid (1.9 g).

reactant | Sodium nitrite | 33.8 mmol, 2.3 g | N(=O)[O-].[Na+]
reactant | cHCl | 33 mL | [CH]Cl | CHCl
reactant | 3-methyl-4-(phenylethynyl)-1H-pyrazol-5-amine | 16.9 mmol, 3.3 g | CC1=NNC(=C1C#CC1=CC=CC=C1)N | C12H11N3
reactant | NaCl | 1.0 g | [Na+].[Cl-]
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 1.9 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C | C12H9ClN4
